US07579488B2
Preparation of methanesulfonic acid 2-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-6-yl ester
A solution of methanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-6-yl ester (34 mg, 0.069) in THF (5.0 mL) at 0° C. is treated with NaBH4 (13 mg, 0.349 mmol). The resulting mixture is stirred for 30 min at RT and quenched with HCl (1.0 N, 2.0 mL) and extracted with EtOAc (2×10 mL). The organic layer is dried over Na2SO4, concentrated to afford the title compound (30 mg, 88%).

reactant | methanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-6-yl ester | 34 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C)C)=O)(C)C | C27H34O6S
reactant | NaBH4 | 0.349 mmol, 13 mg | [BH4-].[Na+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | methanesulfonic acid 2-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-6-yl ester | 30 mg, 88% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C | C27H36O6S
